US07683091B2
A mixture of 4-[(5-nitro-1H-indol-1-yl)methyl]benzoic acid (1.78 g, 6.0 mmol), 1-[3-(dimethylamino)propyl-3-ethylcarbodiimide hydrochloride (1.15 g, 6.0 mmol), 1-hydroxybenzotriazole hydrate (0.81 g, 6.0 mmol), and L-phenylalanine ethyl ester hydrochloride (1.38 g, 6.0 mmol) was stirred in CH2Cl2 (150 mL). N-methylmorpholine (3.03 g, 30 mmol) was added and the mixture was stirred at room temperature for 15 h. The mixture was then washed with 0.05 N HCl and water. The resulting solution was dried with MgSO4 and concentrated to give ethyl N-{4-[(5-nitro-1H-indol-1-yl)methyl]benzoyl}-L-phenylalaninate as an off-white solid (2.55 g, 90%): MS (ESI) m/z 472; MS (ESI) m/z 470.

reactant | 4-[(5-nitro-1H-indol-1-yl)methyl]benzoic acid | 6.0 mmol, 1.78 g | [N+](=O)([O-])C=1C=C2C=CN(C2=CC1)CC1=CC=C(C(=O)O)C=C1 | C16H12N2O4
reactant | 3-(dimethylamino)propyl-3-ethylcarbodiimide hydrochloride | 6.0 mmol, 1.15 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 6.0 mmol, 0.81 g | O.ON1N=NC2=C1C=CC=C2
reactant | L-phenylalanine ethyl ester hydrochloride | 6.0 mmol, 1.38 g | Cl.C(C)OC([C@@H](N)CC1=CC=CC=C1)=O
reactant | N-methylmorpholine | 30 mmol, 3.03 g | CN1CCOCC1 | C5H11NO
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | ethyl N-{4-[(5-nitro-1H-indol-1-yl)methyl]benzoyl}-L-phenylalaninate | 2.55 g, 90% | [N+](=O)([O-])C=1C=C2C=CN(C2=CC1)CC1=CC=C(C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)OCC)C=C1 | C27H25N3O5
